* TR-1um DEC2 — KLayout 抽出 (scripts/klayout_extract.py)

* cell DEC2
* pin A0
* pin A1
* pin A2
* pin A3
* pin AB0
* pin RDBE
* pin RDBO
* pin RDE
* pin RDO
* pin WEB
* pin WRBE
* pin WRBO
* pin WRE
* pin WRO
* pin vdd
* pin vss
.SUBCKT DEC2 A0 A1 A2 A3 AB0 RDBE RDBO RDE RDO WEB WRBE WRBO WRE WRO vdd vss
* cell instance $1 m90 *1 0,0
X$1 vss RDBE WRE WEB WRBE RDE vdd vdd vss DEC0
* cell instance $2 r0 *1 0,0
X$2 vss RDBO WRO WEB WRBO RDO vdd vdd vss DEC0
* device instance $1 r0 *1 -22.2,68.8 PMOS
XM$1 \$38 RDBE WRE vdd PMOS L=1U W=12.2U AS=34.16P AD=7.32P PS=30U PD=13.4U
* device instance $2 r0 *1 -20,68.8 PMOS
XM$2 vdd WEB \$38 vdd PMOS L=1U W=12.2U AS=7.32P AD=30.5P PS=13.4U PD=17.2U
* device instance $3 r0 *1 -14,68.8 PMOS
XM$3 RDBE AB0 vdd vdd PMOS L=1U W=12.2U AS=30.5P AD=18.3P PS=17.2U PD=15.2U
* device instance $4 r0 *1 -10,68.8 PMOS
XM$4 vdd A1 RDBE vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $5 r0 *1 -6,68.8 PMOS
XM$5 RDBE A2 vdd vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $6 r0 *1 -2,68.8 PMOS
XM$6 vdd A3 RDBE vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $7 r0 *1 2,68.8 PMOS
XM$7 RDBO A3 vdd vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $8 r0 *1 6,68.8 PMOS
XM$8 vdd A2 RDBO vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $9 r0 *1 10,68.8 PMOS
XM$9 RDBO A1 vdd vdd PMOS L=1U W=12.2U AS=18.3P AD=18.3P PS=15.2U PD=15.2U
* device instance $10 r0 *1 14,68.8 PMOS
XM$10 vdd A0 RDBO vdd PMOS L=1U W=12.2U AS=18.3P AD=30.5P PS=15.2U PD=17.2U
* device instance $11 r0 *1 20,68.8 PMOS
XM$11 \$34 WEB vdd vdd PMOS L=1U W=12.2U AS=30.5P AD=7.32P PS=17.2U PD=13.4U
* device instance $12 r0 *1 22.2,68.8 PMOS
XM$12 WRO RDBO \$34 vdd PMOS L=1U W=12.2U AS=7.32P AD=34.16P PS=13.4U PD=30U
* device instance $13 r0 *1 -9.6,12.4 NMOS
XM$13 \$46 AB0 RDBE vss NMOS L=1U W=4.6U AS=12.88P AD=2.76P PS=14.8U PD=5.8U
* device instance $14 r0 *1 -7.4,12.4 NMOS
XM$14 \$45 A1 \$46 vss NMOS L=1U W=4.6U AS=2.76P AD=2.76P PS=5.8U PD=5.8U
* device instance $15 r0 *1 -5.2,12.4 NMOS
XM$15 \$47 A2 \$45 vss NMOS L=1U W=4.6U AS=2.76P AD=2.76P PS=5.8U PD=5.8U
* device instance $16 r0 *1 -3,12.4 NMOS
XM$16 vss A3 \$47 vss NMOS L=1U W=4.6U AS=2.76P AD=11.5P PS=5.8U PD=9.6U
* device instance $17 r0 *1 3,12.4 NMOS
XM$17 \$44 A3 vss vss NMOS L=1U W=4.6U AS=11.5P AD=2.76P PS=9.6U PD=5.8U
* device instance $18 r0 *1 5.2,12.4 NMOS
XM$18 \$41 A2 \$44 vss NMOS L=1U W=4.6U AS=2.76P AD=2.76P PS=5.8U PD=5.8U
* device instance $19 r0 *1 7.4,12.4 NMOS
XM$19 \$43 A1 \$41 vss NMOS L=1U W=4.6U AS=2.76P AD=2.76P PS=5.8U PD=5.8U
* device instance $20 r0 *1 9.6,12.4 NMOS
XM$20 RDBO A0 \$43 vss NMOS L=1U W=4.6U AS=2.76P AD=12.88P PS=5.8U PD=14.8U
.ENDS DEC2

* cell DEC0
* pin vss
* pin RDB
* pin WR
* pin 
* pin WRB
* pin RD
* pin vdd
* pin 
* pin vss
.SUBCKT DEC0 vss RDB WR \$6 WRB RD vdd \$15 vss$1
* device instance $1 r0 *1 30.2,68.8 PMOS
XM$1 vdd WR WRB \$15 PMOS L=1U W=12.2U AS=34.16P AD=18.3P PS=30U PD=15.2U
* device instance $2 r0 *1 34.2,68.8 PMOS
XM$2 RD RDB vdd \$15 PMOS L=1U W=12.2U AS=18.3P AD=34.16P PS=15.2U PD=30U
* device instance $3 r0 *1 30.2,26.9 NMOS
XM$3 vss WR WRB vss$1 NMOS L=1U W=4.6U AS=12.88P AD=6.9P PS=14.8U PD=7.6U
* device instance $4 r0 *1 34.2,26.9 NMOS
XM$4 RD RDB vss vss$1 NMOS L=1U W=4.6U AS=6.9P AD=12.88P PS=7.6U PD=14.8U
* device instance $5 r0 *1 22.2,26.9 NMOS
XM$5 WR RDB vss vss$1 NMOS L=1U W=4.6U AS=12.88P AD=12.88P PS=14.8U PD=14.8U
* device instance $6 r0 *1 22.2,12.4 NMOS
XM$6 WR \$6 vss vss$1 NMOS L=1U W=4.6U AS=12.88P AD=12.88P PS=14.8U PD=14.8U
.ENDS DEC0
