* TR-1um MUXDFFRB — KLayout 抽出 (scripts/klayout_extract.py)

* cell MUXDFFRB
* pin A
* pin B
* pin CK
* pin CKB
* pin CKP
* pin Q
* pin QB
* pin QM
* pin QS
* pin RSTB
* pin S
* pin vdd
* pin vss
.SUBCKT MUXDFFRB A B CK CKB CKP Q QB QM QS RSTB S vdd vss
* device instance $1 r0 *1 92.7,45.8 PMOS
XM$1 Q QB vdd vdd PMOS L=1U W=10.4U AS=29.12P AD=29.12P PS=32U PD=32U
* device instance $2 r0 *1 80.6,45.8 PMOS
XM$2 QB QS vdd vdd PMOS L=1U W=10.4U AS=27.56P AD=15.6P PS=26.2U PD=16.4U
* device instance $3 r0 *1 84.6,45.8 PMOS
XM$3 vdd RSTB QB vdd PMOS L=1U W=10.4U AS=15.6P AD=29.12P PS=16.4U PD=32U
* device instance $4 r0 *1 27.3,42.2 PMOS
XM$4 \$11 \$9 vdd vdd PMOS L=1U W=11.2U AS=31.36P AD=31.36P PS=28U PD=28U
* device instance $5 r0 *1 36.4,41.8 PMOS
XM$5 vdd CK CKB vdd PMOS L=1U W=10.4U AS=29.12P AD=15.6P PS=26.4U PD=13.4U
* device instance $6 r0 *1 40.4,41.8 PMOS
XM$6 CKP CKB vdd vdd PMOS L=1U W=10.4U AS=15.6P AD=29.12P PS=13.4U PD=26.4U
* device instance $8 r0 *1 48.4,39.2 PMOS
XM$8 \$24 \$11 vdd vdd PMOS L=1U W=5.2U AS=14.56P AD=3.12P PS=16U PD=6.4U
* device instance $9 r0 *1 50.6,39.2 PMOS
XM$9 \$12 CKP \$24 vdd PMOS L=1U W=5.2U AS=3.12P AD=7.8P PS=6.4U PD=8.2U
* device instance $10 r0 *1 54.6,39.2 PMOS
XM$10 \$13 CKB \$12 vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $11 r0 *1 58.6,39.2 PMOS
XM$11 vdd QM \$13 vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $12 r0 *1 62.6,39.2 PMOS
XM$12 QM \$12 vdd vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $13 r0 *1 66.6,39.2 PMOS
XM$13 QS CKB QM vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $14 r0 *1 70.6,39.2 PMOS
XM$14 \$15 CKP QS vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $15 r0 *1 74.6,39.2 PMOS
XM$15 vdd QB \$15 vdd PMOS L=1U W=5.2U AS=7.8P AD=13P PS=8.2U PD=10.2U
* device instance $18 r0 *1 5.1,48.2 PMOS
XM$18 \$2 S vdd vdd PMOS L=1U W=5.2U AS=14.56P AD=14.56P PS=16U PD=16U
* device instance $19 r0 *1 5.1,39.2 PMOS
XM$19 \$8 A vdd vdd PMOS L=1U W=5.2U AS=14.56P AD=7.8P PS=16U PD=8.2U
* device instance $20 r0 *1 9.1,39.2 PMOS
XM$20 \$9 S \$8 vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $21 r0 *1 13.1,39.2 PMOS
XM$21 \$10 \$2 \$9 vdd PMOS L=1U W=5.2U AS=7.8P AD=7.8P PS=8.2U PD=8.2U
* device instance $22 r0 *1 17.1,39.2 PMOS
XM$22 vdd B \$10 vdd PMOS L=1U W=5.2U AS=7.8P AD=15.6P PS=8.2U PD=16.4U
* device instance $23 r0 *1 92.7,17.9 NMOS
XM$23 Q QB vss vss NMOS L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
* device instance $24 r0 *1 48.4,17.9 NMOS
XM$24 \$19 \$11 vss vss NMOS L=1U W=3.4U AS=9.52P AD=2.04P PS=12.4U PD=4.6U
* device instance $25 r0 *1 50.6,17.9 NMOS
XM$25 \$12 CKB \$19 vss NMOS L=1U W=3.4U AS=2.04P AD=5.1P PS=4.6U PD=6.4U
* device instance $26 r0 *1 54.6,17.9 NMOS
XM$26 \$13 CKP \$12 vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $27 r0 *1 58.6,17.9 NMOS
XM$27 vss QM \$13 vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $28 r0 *1 62.6,17.9 NMOS
XM$28 QM \$12 vss vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $29 r0 *1 66.6,17.9 NMOS
XM$29 QS CKP QM vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $30 r0 *1 70.6,17.9 NMOS
XM$30 \$15 CKB QS vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $31 r0 *1 74.6,17.9 NMOS
XM$31 vss QB \$15 vss NMOS L=1U W=3.4U AS=5.1P AD=8.5P PS=6.4U PD=8.4U
* device instance $32 r0 *1 80.6,17.9 NMOS
XM$32 \$18 QS vss vss NMOS L=1U W=3.4U AS=8.5P AD=2.21P PS=8.4U PD=4.7U
* device instance $33 r0 *1 82.9,17.9 NMOS
XM$33 QB RSTB \$18 vss NMOS L=1U W=3.4U AS=2.21P AD=9.52P PS=4.7U PD=12.4U
* device instance $34 r0 *1 36.4,17.9 NMOS
XM$34 vss CK CKB vss NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $35 r0 *1 40.4,17.9 NMOS
XM$35 CKP CKB vss vss NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $36 r0 *1 27.3,17.9 NMOS
XM$36 \$11 \$9 vss vss NMOS L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
* device instance $37 r0 *1 5.1,17.9 NMOS
XM$37 \$8 A vss vss NMOS L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $38 r0 *1 9.1,17.9 NMOS
XM$38 \$9 \$2 \$8 vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $39 r0 *1 13.1,17.9 NMOS
XM$39 \$10 S \$9 vss NMOS L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $40 r0 *1 17.1,17.9 NMOS
XM$40 vss B \$10 vss NMOS L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $41 r0 *1 11.5,8.2 NMOS
XM$41 \$2 S vss vss NMOS L=1U W=3.4U AS=10.2P AD=9.52P PS=12.8U PD=12.4U
.ENDS MUXDFFRB
